US05977178
N-Methyl-N-((1R)-2-methylamino-I-((2-thienyl)methyl)ethyl)carbamic acid tert-butyl ester (1.72 g, 6.05 mmol) was dissolved in dichloromethane (30 ml). Triethylamine (0.84 ml, 6.05 mmol) was added. The solution was cooled to -78° C. Methanesulfonyl chloride (0.47 ml, 6.05 mmol) was added dropwise. The reaction mixture was warmed to room temperature over a period of 3.5 h. It was stirred at room temperature for 16 h. The reaction mixture was diluted with dichloromethane (100 ml). It was washed with 10% aqueous sodium hydrogen is sulfate solution (200 ml). The aqueous phase was extracted with dichloromethane (2×50 ml). The combined organic layers were washed with saturated sodium hydrogen carbonate solution (200 ml) and dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (180 g), using ethyl acetate/heptane 1:1 as eluent, to 20 give 1.94 g of N-methyl-N-((1R)-2-(N-methyl-N-(methylsulfonyl)amino)-1-((2-thienyl) methyl)ethyl)carbamic acid tert-butyl ester.

reactant | N-Methyl-N-((1R)-2-methylamino-I-((2-thienyl)methyl)ethyl)carbamic acid tert-butyl ester | 6.05 mmol, 1.72 g | C(C)(C)(C)OC(N([C@@H](CNC)CC=1SC=CC1)C)=O | C14H24N2O2S
reactant | Triethylamine | 6.05 mmol, 0.84 ml | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 6.05 mmol, 0.47 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | N-methyl-N-((1R)-2-(N-methyl-N-(methylsulfonyl)amino)-1-((2-thienyl) methyl)ethyl)carbamic acid tert-butyl ester | 1.94 g | C(C)(C)(C)OC(N([C@@H](CN(S(=O)(=O)C)C)CC=1SC=CC1)C)=O | C15H26N2O4S2
